US07612060B2
Step (ii): Synthesis of (R)-3-(prop-2-ynyl)-3,4-dihydropyrido[3,2-b]pyrazin-2(1H)-one
To (R)-methyl 2-(3-nitropyridin-2-ylamino)pent-4-ynoate (2.6 g, 10 mmol) in MeOH (60 mL) was added ammonium chloride (2.8 g, 52 mmol) in water (50 mL) and iron (2.7 g, 48 mmol) and the reaction mixture was heated to reflux for 8 h. The reaction mixture was cooled to room temperature and Et3N (1.3 mL) was added. After 10 h, EtOAc (100 mL) was added and the mixture was stirred for 2 h. The solution was decanted and evaporated. Water (15 mL) was added and the reaction mixture was filtered and washed with water to give colored solid.

reactant | (R)-methyl 2-(3-nitropyridin-2-ylamino)pent-4-ynoate | 10 mmol, 2.6 g | [N+](=O)([O-])C=1C(=NC=CC1)N[C@@H](C(=O)OC)CC#C | C11H11N3O4
reactant | ammonium chloride | 52 mmol, 2.8 g | [Cl-].[NH4+]
reactant | Et3N | 1.3 mL | CCN(CC)CC | C6H15N
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 60 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
catalyst | iron | 48 mmol, 2.7 g | [Fe] | Fe
product | (R)-3-(prop-2-ynyl)-3,4-dihydropyrido[3,2-b]pyrazin-2(1H)-one | C(C#C)[C@H]1NC2=C(NC1=O)C=CC=N2 | C10H9N3O
